US07553646B2
In another aspect, a method of preparing an (+)-(S)-enantiomer of modafinil is disclosed. The method includes subjecting benzhydrylsulfanyl carboxylic acid to an oxidation reaction using Beauveria bassiana to obtain (S)-benzhydrylsulfinyl carboxylic acid and subjecting the (S)-benzhydrylsulfinyl carboxylic acid to an amidation reaction using Bacillus subtilis to obtain (+)-(S)-modafinil.

reactant | modafinil | C=1C=CC(=CC1)C(C=2C=CC=CC2)[S+](CC(=O)N)[O-] | C15H15NO2S
reactant | benzhydrylsulfanyl carboxylic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)SC(=O)O | C14H12O2S
product | (S)-benzhydrylsulfinyl carboxylic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)[S@](=O)C(=O)O | C14H12O3S
